US08138189B2
Step 2: 4-[3-Chloro-4-(1-methyl-2-oxo-ethyl)-phenoxy]-benzonitrile
Potassium tert-butoxide (248 mg) was added to a solution 4-(4-acetyl-3-chloro-phenoxy)-benzonitrile (500 mg) and (methoxymethyl)-triphenylphosphonium chloride (694 mg) in THF (10 ml) at room temperature. The mixture was stirred for 1 h at room temperature. 25% aqueous HCl (4 ml) was added. The resulting mixture was stirred 1 h at room temperature and poured then carefully to a saturated aqueous NaHCO3 solution. After neutralization, the mixture was extracted with EtOAc. The combined organic layers were dried over Na2SO4 and then concentrated to an oil. The residue was purified by flash chromatography (SiO2, EtOAc/heptane 1:2) to give the title compound (450 mg) as yellow oil. MS (m/e, ISP neg. ion)=284.3 [M−H+].

reactant | Potassium tert-butoxide | 248 mg | CC(C)([O-])C.[K+]
reactant | 4-(4-acetyl-3-chloro-phenoxy)-benzonitrile | 500 mg | C(C)(=O)C1=C(C=C(OC2=CC=C(C#N)C=C2)C=C1)Cl | C15H10ClNO2
reactant | (methoxymethyl)-triphenylphosphonium chloride | 694 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | HCl | 4 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[3-Chloro-4-(1-methyl-2-oxo-ethyl)-phenoxy]-benzonitrile | 450 mg | ClC=1C=C(OC2=CC=C(C#N)C=C2)C=CC1C(C=O)C | C16H12ClNO2
